US04086234
When equivalent quantities of piperidine hydrochloride and 2-phenyl-2-(2-chloroethyl)butyronitrile are substituted for the 2-azabicyclo[2.2.2]octane hydrochloride and 2,2-diphenyl-4-bromobutyronitrile used in Example 12, and the procedure described therein substantially repeated, there is obtained 2-phenyl-2-ethyl-4-piperidino-butyronitrile hydrochloride melting at about 200° - 203° C.

reactant | piperidine hydrochloride | Cl.N1CCCCC1
reactant | 2-phenyl-2-(2-chloroethyl)butyronitrile | C1(=CC=CC=C1)C(C#N)(CC)CCCl | C12H14ClN
reactant | 2-azabicyclo[2.2.2]octane hydrochloride | Cl.C12NCC(CC1)CC2
reactant | 2,2-diphenyl-4-bromobutyronitrile | C1(=CC=CC=C1)C(C#N)(CCBr)C1=CC=CC=C1 | C16H14BrN
product | 2-phenyl-2-ethyl-4-piperidino-butyronitrile hydrochloride | Cl.C1(=CC=CC=C1)C(C#N)(CCN1CCCCC1)CC | InChI=1S/C17H24N2.ClH/c1-2-17(15-18,16-9-5-3-6-10-16)11-14-19-12-7-4-8-13-19;/h3,5-6,9-10H,2,4,7-8,11-14H2,1H3;1H
